US06727264B1
N-(3-{1-[4-OXO-4-(4-PHENOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure K and Scheme B1 using 4-chloro-1-(4-phenoxyphenyl)-1-butanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 483.2 (M+H)+.

reactant | 4-chloro-1-(4-phenoxyphenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H15ClO2
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[4-OXO-4-(4-PHENOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | O=C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C31H34N2O3
